US07919488B2
N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N-methylmethanesulfonamide
To a solution of 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine (150 mg, 0.37 mmol) in DCM (3 mL) at room temperature was added triethylamine (56 μL, 0.40 mmol) followed by methanesulfonyl chloride (29 μL, 0.37 mmol) and the solution stirred for 10 minutes. The solution was then loaded directly onto a pre-wetted Biotage 25M column for flash chromatography and eluted with 2-8% MeOH/DCM to yield the title compound as a white solid, 137 mg, 76%. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.47-8.56 (2 H, m), 7.61-7.68 (2 H, m), 7.23-7.35 (2 H, m), 7.03-7.19 (2 H, m), 6.52 (1 H, s), 5.10-5.29 (2 H, m), 4.37 (1 H, d, J=13.39 Hz), 3.90-3.99 (3 H, m), 3.74-3.89 (1 H, m), 3.06-3.19 (1 H, m), 2.93 (3 H, s), 2.68 (3 H, s), 2.58-2.65 (1 H, m), 1.62-1.77 (3 H, m), 1.42-1.59 (1 H, m); m/z (APCI+) for C24H28N5O3FS 486.2 (M+H)+.

reactant | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine | 0.37 mmol, 150 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)NC)C2=CC=NC=C2)C=C1 | C23H26FN5O
reactant | triethylamine | 0.40 mmol, 56 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.37 mmol, 29 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N-methylmethanesulfonamide | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)N(S(=O)(=O)C)C)C2=CC=NC=C2)C=C1 | C24H28FN5O3S
